US09108981B2
(S)-tert-Butyl(1-(3-chlorophenyl)allyl)carbamate: To a solution of Intermediate 9A (1.38 g, 5.08 mmol) in MeOH (10 mL) was added 4 N HCl (6.35 mL, 25.4 mmol) in dioxane and the resulting reaction was stirred at rt for 1 h. After this time, the reaction mixture was concentrated and coevaporated with toluene (2×). The crude product was then triturated with ether, filtered and washed with additional ether to give (S)-1-(3-chlorophenyl)prop-2-en-1-amine (0.8 g, 94%) as a beige solid. MS (ESI) m/z: 150.8 (M+H—NH3)+. The beige solid was dissolved in ACN (25 mL) and TEA (4 mL, 28.7 mmol) and to this solution was added Boc2O (1.415 mL, 6.09 mmol). The reaction mixture was stirred at rt overnight. The reaction mixture was diluted with EtOAc and washed with water followed by brine. The crude product was then purified by silica gel chromatography to give the desired product, Intermediate 9B (546 mg, 40%) as a clear oil. MS(ESI) m/z: 290.0 (M+Na)+.

reactant | (S)-tert-Butyl(1-(3-chlorophenyl)allyl)carbamate | C(C)(C)(C)OC(N[C@@H](C=C)C1=CC(=CC=C1)Cl)=O | C14H18ClNO2
reactant | HCl | 25.4 mmol, 4 N, 6.35 mL | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-1-(3-chlorophenyl)prop-2-en-1-amine | 0.8 g, 94% | ClC=1C=C(C=CC1)[C@H](C=C)N | C9H10ClN
